US05576343
3.42 g of 3,4-diaminobenzonitrile and 4.06 g of ethyl chloroacetoimidate hydrochloride were dissolved in 100 ml of ethanol, and the solution was refluxed under heating for 3 hours. After cooling and distilling off the solvent, the resulting residue was dissolved in ethyl acetate, washed with water, and then dried. After distilling off the solvent, the crystals thus precipitated were collected by filtration to obtain 2.7 g of 2-chloromethyl-5-benzimidazolecarbonitrile.

reactant | 3,4-diaminobenzonitrile | 3.42 g | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | ethyl chloroacetoimidate hydrochloride | 4.06 g | Cl.ClCC(OCC)=N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-chloromethyl-5-benzimidazolecarbonitrile | 2.7 g | ClCC=1NC2=C(N1)C=CC(=C2)C#N | C9H6ClN3
